US04521422
A 31.2 g portion of N-(3-acetylphenyl)-N-ethyl-4-methylbenzenesulfonamide and 50 ml of dimethylformamide dimethylacetal were combined and stirred on a steam bath for 18 hours, then evaporated in vacuo to an oil. This oil was triturated with hexane at -10° C. The hexane was decanted and the residue dissolved in 125 ml of boiling dichloromethane and then filtered. The filtrate was reheated to boiling, 200 ml of hexane was added and the mixture cooled to -10° C. The precipitate was collected, washed with hexane and dried, giving 21.6 g of N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]-N-ethyl-4-methylbenzenesulfonamide.

reactant | N-(3-acetylphenyl)-N-ethyl-4-methylbenzenesulfonamide | C(C)(=O)C=1C=C(C=CC1)N(S(=O)(=O)C1=CC=C(C=C1)C)CC | C17H19NO3S
reactant | dimethylformamide dimethylacetal | 50 ml | COC(N(C)C)OC | C5H13NO2
product | N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]-N-ethyl-4-methylbenzenesulfonamide | 21.6 g | CN(C=CC(=O)C=1C=C(C=CC1)N(S(=O)(=O)C1=CC=C(C=C1)C)CC)C | C20H24N2O3S
